US04956359
3-(3-Fluorophenoxy)-1-azetidinecarboxamide
A stirred slurry of 3 g (0.012 mole) of 3-(3-fluorophenoxy)azetidine oxalate [1:1] in 20 ml of acetone was treated with 3 ml of triethylamine and stirred for 1 hr. The resulting solution was treated with 2.5 g (0.024 mole) of nitrourea and 2 ml of water then stirred for 16 hr. The reaction mixture was diluted with water and the product crystallized. Recrystallization from methanol-water yielded 1.1 g (43.6%) of a white crystalline solid, m.p. 169°-170° C.

reactant | 3-(3-fluorophenoxy)azetidine oxalate | 0.012 mole, 3 g | C(C(=O)O)(=O)O.FC=1C=C(OC2CNC2)C=CC1
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | nitrourea | 0.024 mole, 2.5 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | 3-(3-Fluorophenoxy)-1-azetidinecarboxamide | 1.1 g, 43.6% | FC=1C=C(OC2CN(C2)C(=O)N)C=CC1 | C10H11FN2O2
